US05663334
4-(4-Fluorophenyl)-5-[2-(methylsulfinyl)-4-pyrimidinyl]-1-[3-(4-morpholinyl)-propyl]imidazole
A solution of K2S2O8 (0.20 g, 0.73 mmol) in water (5 mL) was added to 4-(4-fluorophenyl)-5-[2-(methylthio)-4-pyrimidinyl]-1-[3-(4-morpholinyl)propyl]imidazole (0.20 g, 0.48 mmol) in glacial acetic acid (10 mL). After stirring at ambient temperature for 72 h, the reaction mixture was poured into water, neutralized with concentrated aqueous ammonium hydroxide and extracted four times with dichloromethane. The organic phases were combined and evaporated. The residue was purified by flash chromatography eluting successively with 1%, 2%, 4% and 10% methanol in dichloromethane to afford the title compound as a clear oil (0.15 g, 73%). 1H NMR (CDCl3) δ 8.57(d, J=7 Hz, 1H), 7.77(s, 1H), 7.47 (dd, 2H), 7.18(d, J=5 Hz, 1H)7.09(t, J=9 Hz, 2H), 4.56(m, 2H), 3.72(t, J=5Hz, 4H), 3.00(s, 3H), 2.40(brd. s, 4H), 2.33(t, J=8 Hz, 2H), 1.94(m, 2H).

reactant | 4-(4-fluorophenyl)-5-[2-(methylthio)-4-pyrimidinyl]-1-[3-(4-morpholinyl)propyl]imidazole | 0.48 mmol, 0.20 g | FC1=CC=C(C=C1)C=1N=CN(C1C1=NC(=NC=C1)SC)CCCN1CCOCC1 | C21H24FN5OS
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 5 mL | O | H2O
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-(4-Fluorophenyl)-5-[2-(methylsulfinyl)-4-pyrimidinyl]-1-[3-(4-morpholinyl)-propyl]imidazole | 0.15 g, 73% | FC1=CC=C(C=C1)C=1N=CN(C1C1=NC(=NC=C1)S(=O)C)CCCN1CCOCC1 | C21H24FN5O2S
